US05210092
A mixture of 3,4-dichloro-1-(4-methylphenyl)pyrrole-2-carbonitrile (1.25 g), 2,2'-azobisisobutyronitrile (10 mg) and N-bromosuccinimide (1.068 g) in carbon tetrachloride (25 ml) was refluxed for 3 hours, cooled to ambient temperature, and filtered. The filtrate was concentrated in vacuo. The residue was crystallized from 10% ethyl acetate in n-hexane to yield 1-(4-bromomethylphenyl)-3,4-dichloropyrrole-2-carbonitrile (1.01 g).

reactant | 3,4-dichloro-1-(4-methylphenyl)pyrrole-2-carbonitrile | 1.25 g | ClC1=C(N(C=C1Cl)C1=CC=C(C=C1)C)C#N | C12H8Cl2N2
reactant | N-bromosuccinimide | 1.068 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2'-azobisisobutyronitrile | 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 1-(4-bromomethylphenyl)-3,4-dichloropyrrole-2-carbonitrile | 1.01 g | BrCC1=CC=C(C=C1)N1C(=C(C(=C1)Cl)Cl)C#N | C12H7BrCl2N2
